US06002008
N-[4-[(3-Chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-(Z)-2-butenamide
A mixture of 0.05 g (0.1 18 mmol) N-[4[(3-chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-2-butynamide and 6 mg of Lindlar catalyst in 15 mL of methanol was hydrogenated at room temperature for 5.5 hrs. The mixture was filtered through a pad of Celite. The solvent was removed to give 0.05 g (99.7%) yellow solid; HRMS m/z 410.0928 (M+.).

reactant | N-[4[(3-chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-2-butynamide | 18 mmol, 0.05 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCOC)=O)C#N | C21H14ClFN4O2
catalyst | Lindlar catalyst | 6 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 15 mL | CO | CH4O
product | N-[4-[(3-Chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-(Z)-2-butenamide | 0.05 g, 99.7% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(\C=C/COC)=O)C#N | C21H16ClFN4O2
